US04242519
Methyl α-methylthio-[m-(α,α-dimethoxybenzyl)phenyl]acetate (444 mg) was dissolved in 4 ml of dimethyl sulfoxide, and 55 mg of sodium hydride (65% content) was added. The mixture was stirred at room temperature for 20 minutes. Methyl iodide (0.20 ml) was added dropwise over the course of 3 minutes, and the mixture was further stirred at room temperature for 30 minutes. An aqueous solution of ammonium chloride (200 mg/30 ml) was added, and the mixture was extracted three times with 20 ml of diethyl ether. The organic layer was washed three times with 10 ml of water, dried over anhydrous sodium sulfate, and the residue was chromatographed on a column of Florisil using benzene and methylene chloride as eluents to afford 386 mg of methyl α-methylthio-α-[m-(α,α-dimethoxybenzyl)phenyl]propionate as an oil in a yield of 84%.

reactant | Methyl α-methylthio-[m-(α,α-dimethoxybenzyl)phenyl]acetate | 444 mg | CSC(C(=O)OC)C1=CC(=CC=C1)C(C1=CC=CC=C1)(OC)OC | C19H22O4S
reactant | sodium hydride | 55 mg | [H-].[Na+]
reactant | Methyl iodide | 0.20 ml | CI | CH3I
reactant | ammonium chloride | 30 ml, 200 mg | [Cl-].[NH4+]
solvent | dimethyl sulfoxide | 4 ml | CS(=O)C | C2H6OS
product | methyl α-methylthio-α-[m-(α,α-dimethoxybenzyl)phenyl]propionate | 386 mg, yield of 84% | CSC(C(=O)OC)(C)C1=CC(=CC=C1)C(C1=CC=CC=C1)(OC)OC | C20H24O4S
